US04261960
A brine containing 0.77% lithium, in the form of lithium chloride, and 0.28% boron, as well as magnesium and sulfate impurities, was treated with a slurry of slaked lime to a pH of 11 to precipitate magnesium as magnesium hydroxide, and then treated with a sufficient amount of a 20% solution of calcium chloride to form calcium borate hydrate. At pH 11, only gypsum precipitated and the boron concentration of the brine, after separation of the precipitated material, was reduced to 0.15%B due to dilution effect.

reactant | lithium chloride | [Cl-].[Li+]
reactant | boron | [B] | B
reactant | magnesium | [Mg] | Mg
reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | slaked lime | [OH-].[Ca+2].[OH-]
solvent | brine | [Cl-].[Na+].O
product | calcium borate hydrate | O.B([O-])([O-])[O-].[Ca+2].B([O-])([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/2BO3.3Ca.H2O/c2*2-1(3)4;;;;/h;;;;;1H2/q2*-3;3*+2;
